US05310795
The acrylates represented by structure V are easily prepared. As an example, 2-aminoethanol will react with di-t-butyl dicarbonate to yield N-t-butoxycarbonyl-2-aminoethanol. The latter reacts with acryloyl chloride to yield N-t-butoxycarbonyl-2-aminoethyl acrylate. The aforementioned synthesis can be generalized by substituting other alkanolamines or aminophenols for aminoethanol and by substituting other dicarbonates for d-t-butyl dicarbonate.

reactant | 2-aminoethanol | NCCO | C2H7NO
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | N-t-butoxycarbonyl-2-aminoethanol | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
